US08809342B2
To a solution of the 1-(2-chloropyrimidin-5-yl)-3-methylbutan-1-ol (600 mg, 2.99 mmol) in toluene (15.0 mL) was added Pd(PPh3)4 (346 mg, 0.299 mmol), 4-(trifluoromethyl)phenyl boronic acid (682 mg, 3.59 mmol), potassium fluoride (521 mg, 8.97 mmol) and water (3.7 mL). The reaction mixture was purged with nitrogen and heated to reflux for 5 h. The phases were separated and the aqueous layer was extracted with ethyl acetate (3×200 mL). The combined organic layers were concentrated under reduced pressure. The crude solid was purified by silics gel chromatography to give 3-methyl-1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butan-1-ol (138 mg) as a yellow solid. 1HNMR (400 MHz, CDCl3) δ 8.77 (s, 2H), 8.55 (d, J=8.4 Hz, 2H), 7.68 (d, J=8.4 Hz, 2H), 4.81-4.84 (m, 1H), 1.92-1.65 (m, 2H), 1.53-1.47 (m, 1H), 0.94 (d, J=6.4 Hz, 6H).

reactant | 1-(2-chloropyrimidin-5-yl)-3-methylbutan-1-ol | 2.99 mmol, 600 mg | ClC1=NC=C(C=N1)C(CC(C)C)O | C9H13ClN2O
reactant | 4-(trifluoromethyl)phenyl boronic acid | 3.59 mmol, 682 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium fluoride | 8.97 mmol, 521 mg | [F-].[K+]
reactant | water | 3.7 mL | O | H2O
solvent | toluene | 15.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.299 mmol, 346 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyl-1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butan-1-ol | 138 mg | CC(CC(O)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C | C16H17F3N2O
